US09085555B2
4-(3-Acetyl-1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indol-6-yloxymethyl)-benzoic acid
The title compound was prepared in a similar manner as described for Example 595 from 4-(3-acetyl-1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indol-6-yloxymethyl)-benzoic acid methyl ester (37.0 mg, 0.058 mmol) and 1N NaOH (0.928 mL, 0.928 mmol) in THF (5 mL) and water (0.5 mL). Solid. MS (LC/MS): 624/626 [M+H]+; tR (HPLC conditions k): 3.48 min.

reactant | 4-(3-acetyl-1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indol-6-yloxymethyl)-benzoic acid methyl ester | 0.058 mmol, 37.0 mg | COC(C1=CC=C(C=C1)C(CC(=O)N1[C@@H](C[C@H](C1)F)C(NCC1=C(C(=CC=C1)Cl)F)=O)OC1=CC=C2C(=CNC2=C1)C(C)=O)=O | C33H30ClF2N3O6
reactant | NaOH | 0.928 mmol, 1N, 0.928 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | 4-(3-Acetyl-1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indol-6-yloxymethyl)-benzoic acid | C(C)(=O)C1=CNC2=CC(=CC=C12)OC(CC(=O)N1[C@@H](C[C@H](C1)F)C(NCC1=C(C(=CC=C1)Cl)F)=O)C1=CC=C(C(=O)O)C=C1 | C32H28ClF2N3O6
